US08431563B2
A solution of tert-butyl 2-oxo-4-(2-thiophenylsulfonyl)-1-piperazinecarboxylate (600 mg, 1.73 mmol) in THF (8 mL) at 0° C. was added to a solution of 1-propynylmagnesium bromide (0.5 M in THF, 5.0 mL, 2.50 mmol, Sigma-Aldrich, St. Louis, Mo.). After 1.5 h at 0° C., additional 1-propynylmagnesium bromide (3.0 mL, 1.50 mmol) was added. After an additional 50 min, the mixture was quenched with ice (20 g) and saturated aqueous NH4Cl (15 mL). EtOAc (20 mL) was added and the aqueous layer was further extracted with EtOAc (2×10 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated. The residue was purified by chromatography on silica gel using (10 to 50% EtOAc in hexane) to give tert-butyl (2-((2-oxo-3-pentyn-1-yl)(2-thiophenylsulfonyl)amino)ethyl)carbamate as yellow oil (540 mg).

reactant | tert-butyl 2-oxo-4-(2-thiophenylsulfonyl)-1-piperazinecarboxylate | 1.73 mmol, 600 mg | O=C1N(CCN(C1)S(=O)(=O)C=1SC=CC1)C(=O)OC(C)(C)C | C13H18N2O5S2
reactant | 1-propynylmagnesium bromide | 2.50 mmol, 0.5 M, 5.0 mL | C(#CC)[Mg]Br
reactant | 1-propynylmagnesium bromide | 1.50 mmol, 3.0 mL | C(#CC)[Mg]Br
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | tert-butyl (2-((2-oxo-3-pentyn-1-yl)(2-thiophenylsulfonyl)amino)ethyl)carbamate | 540 mg | O=C(CN(CCNC(OC(C)(C)C)=O)S(=O)(=O)C=1SC=CC1)C#CC | C16H22N2O5S2
